US07361677B2
Sulfamic acid 2-chloro-4-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-methyl}-phenyl ester (CAB03015, STX694)
Sulphamoyl chloride solution in toluene (3 mL, 0.7 M, 2.1 mmol) was concentrated under reduced pressure (30° C. water bath temperature) to ca. 0.5 mL volume. The residue was cooled to 0° C. (ice bath) and N,N-dimethylacetamide (5 mL) was added. 4-[(3-Chloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB02130, 163 mg, 0.50 mmol) was added to the colourless solution and the mixture was stirred for 18 h at room temperature. Ethyl acetate (50 mL) and water (30 mL) were added to the solution, the organic layer was separated, washed with water (2×30 mL) and brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was dissolved in a small amount of acetone and precipitated by addition of hexane. The precipitate was filtered off and dried under high vacuum. Yield: 59 mg (29%) white powder. 1H-NMR (400 MHz, d6-DMSO) δ=5.11 (s, 2H), 6.72 (d, J=9.0 Hz, 2H), 7.38 (dd, J=8.2, 2.0 Hz, 1H), 7.44 (d, J=8.2 Hz, 1H), 7.59 (d, J=2.0 Hz, 1H), 7.77 (d, J=9.0 Hz, 2H), 8.31 (s, 2H, —NH2), 8.91 (s, 2H). LRMS (FAB+): 405.0 (100, [M+H]+). HRMS (FAB+) 405.05349 C16H14N6O3SCl requires 405.053663

reactant | Sulphamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | toluene | 2.1 mmol, 0.7 M, 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-[(3-Chloro-4-hydroxy-benzyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 0.50 mmol, 163 mg | ClC=1C=C(CN(C2=CC=C(C#N)C=C2)N2C=NN=C2)C=CC1O | C16H12ClN5O
solvent | water | 30 mL | O | H2O
solvent | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | Sulfamic acid 2-chloro-4-{[(4-cyano-phenyl)-[1,2,4]triazol-4-yl-amino]-methyl}-phenyl ester | ClC1=C(C=CC(=C1)CN(N1C=NN=C1)C1=CC=C(C=C1)C#N)OS(N)(=O)=O | C16H13ClN6O3S
